US08563542B2
Step 7: (Compound [2]): 4-(9-Cyclopentyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide
4-(9-Cyclopentyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (35 mg, 0.085 mmol), DIPEA (28 μl, 0.17 mmol, 2 eq) and TBTU (30 mg, 0.093 mmol, 1.1 eq) were added to 3 ml DCM and the resulting solution stirred at rt for 30 min before the addition of 4-aminomethylpiperidine (13 μl, 0.10 mmol, 1.2 eq). The RM was then stirred at rt for 16 h. The RM was concentrated and the product extracted using DCM/H2O. The organic extracts were combined, washed with sat NaCl, dried using MgSO4, filtered and the filtrate evaporated under reduced pressure and further dried in vacuo to give a yellow oily residue (21 mg, 49%); Rt=9.86 min (0—60—20 min, purity 100%); 1H NMR (CD3OD): δ 1.69-1.75 (m, 6H), 1.82 (bs, 2H), 1.96-1.99 (m, 2H), 2.03-2.05 (bs, 2H), 2.18-2.23 (m, 2H), 2.34 (s, 3H, CH3), 2.68 (dd, J=4.5 Hz, 2H, CH2), 2.95-2.97 (m, 2H), 3.28 (s, 3H, CH3), 3.73 (dd, J=4.5 Hz, 2H, CH2), 3.89-3.94 (m, 1H, CH), 4.01 (s, 3H, CH3), 4.91-4.96 (m, 1H, CH), 7.49-7.51 (m, 2H), 8.02 (bs, 1H), 8.50 (d, J=8.5 Hz, 1H, phe-H); MS+ve: 508.2.

reactant | 4-(9-Cyclopentyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.085 mmol, 35 mg | C1(CCCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C20H23N5O3
reactant | DIPEA | 0.17 mmol, 28 μl, 2 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.093 mmol, 30 mg, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-aminomethylpiperidine | 0.10 mmol, 13 μl, 1.2 eq | NCC1CCNCC1 | C6H14N2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-(9-Cyclopentyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 21 mg, 49% | C1(CCCC1)N1C2=C(N(C(CC1)=O)C)C=NC(=N2)NC2=CC=C(C(=O)NC1CCN(CC1)C)C=C2 | C26H35N7O2
